US08557813B2
7.2 425 g (20.0 mmol) of tripotassium phosphate trihydrate and 842 mg (1.2 mmol) of bis(triphenylphosphine)palladium chloride are added to a solution, kept under nitrogen, of 2.65 g (10.0 mol) of [3-(5-bromopyrimidin-2-yl)-phenyl]methanol and 3.38 g (11.0 mmol) of 4-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]ethyl}morpholine in 50 ml of 1,2-dimethoxyethane, and the mixture is stirred at 80° C. for 18 hours. Dichloromethane and water are added to the reaction mixture, which is then filtered through kieselguhr, and the residue is washed with dichloromethane. The organic phase is separated off, dried over sodium sulfate and evaporated. The residue is recrystallised from 2-propanol, giving (3-{5-[1-(2-morpholin-4-ylethyl)-1H-pyrazol-4-yl]pyrimidin-2-yl}phenyl)methanol as yellowish crystals; ESI 366.

reactant | tripotassium phosphate trihydrate | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | [3-(5-bromopyrimidin-2-yl)-phenyl]methanol | 10.0 mol, 2.65 g | BrC=1C=NC(=NC1)C=1C=C(C=CC1)CO | C11H9BrN2O
reactant | 4-{2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]ethyl}morpholine | 11.0 mmol, 3.38 g | CC1(OB(OC1(C)C)C=1C=NN(C1)CCN1CCOCC1)C | C15H26BN3O3
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium chloride | 1.2 mmol, 842 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | (3-{5-[1-(2-morpholin-4-ylethyl)-1H-pyrazol-4-yl]pyrimidin-2-yl}phenyl)methanol | N1(CCOCC1)CCN1N=CC(=C1)C=1C=NC(=NC1)C=1C=C(C=CC1)CO | C20H23N5O2
